US06046214
A solution of methyl 1-methyl-1,2,3,6-tetrahydropyridine-3-carboxylate (88 g, 0.56 mol) dis-solved in dry diethyl ether (250 ml) was slowly added to a slurry of lithium aluminium hydride (23 g, 0.6 mol) in diethyl ether (500 ml). The mixture was refluxed for 30 min. Water (100 ml) and potassium carbonate (100 g, 0.72 mol) were added carefully and the mixture was filtered and evaporated to dryness in vacuo. The residue was distilled in vacuum giving one pure fraction of (1-methyl-1,2,3,6-tetrahydro-3-pyridyl)methanol (Yield:15 g). (bp 38-40° C./0.2 bar).

reactant | methyl 1-methyl-1,2,3,6-tetrahydropyridine-3-carboxylate | 0.56 mol, 88 g | CN1CC(C=CC1)C(=O)OC | C8H13NO2
reactant | lithium aluminium hydride | 0.6 mol, 23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 100 ml | O | H2O
reactant | potassium carbonate | 0.72 mol, 100 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | (1-methyl-1,2,3,6-tetrahydro-3-pyridyl)methanol | Yield:15 g | CN1CC(C=CC1)CO | C7H13NO
